US09376454B2
Step 3. Synthesis of (R)-3-(3-((S)-2,3-diaminopropanamido)-4-((dimethylamino)methyl)benzamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid
Prepared from tert-butyl 3-((2R)-2-(3-((S)-2-amino-3-(tert-butoxycarbonylamino)propanamido)-4-((dimethylamino)methyl)benzamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)-2-methoxybenzoate and BCl3 following the procedure described in Step 2 of Example 3. The crude product was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 470 (MH)+.

reactant | tert-butyl 3-((2R)-2-(3-((S)-2-amino-3-(tert-butoxycarbonylamino)propanamido)-4-((dimethylamino)methyl)benzamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)-2-methoxybenzoate | N[C@H](C(=O)NC=1C=C(C(=O)N[C@@H](CC=2C(=C(C(=O)OC(C)(C)C)C=CC2)OC)B2OC3(C4C(C(CC3O2)C4)(C)C)C)C=CC1CN(C)C)CNC(=O)OC(C)(C)C | C42H62BN5O9
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
product | (R)-3-(3-((S)-2,3-diaminopropanamido)-4-((dimethylamino)methyl)benzamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | N[C@H](C(=O)NC=1C=C(C(=O)N[C@@H]2B(OC3=C(C2)C=CC=C3C(=O)O)O)C=CC1CN(C)C)CN | C22H28BN5O6
